US04492693
Reaction of chloroacetone with 4-chlorothiophenol gave (4-chlorophenyl)thiomethyl methyl ketone, which was cyclized by reaction with polyphosphoric acid to 5-chloro-3-methylbenzothiophene. Bromination of the latter compound by photochemical reaction with N-bromosuccinimide provided 5-chloro-3-bromomethylbenzothiophene, which was reacted with sodium cyanide to give 5-chloro-3-cyanomethylbenzothiophene. The latter compound was hydrolyzed and esterified to give methyl α-(5-chloro-3-benzothienyl)acetate. Reaction of the ester with sodium methoxide and n-butyl nitrite afforded methyl α-hydroxyimino-α-(5-chloro-3-benzothienyl)acetate. Reduction of the oxime by reaction with zinc and formic acid and subsequent reaction with di-tert.-butyl carbonate gave N-tert.-butoxycarbonyl-(5-chloro-3-benzothienyl)glycine. NMR (CDCl3): δ 1.1-1.5 (broad s, 9H); δ 5.4-5.7 (broad s, 1H); δ 7.2-8.0 (m, 4H).

reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | (4-chlorophenyl)thiomethyl methyl ketone | CC(=O)CSC1=CC=C(C=C1)Cl | C9H9ClOS
